US07968574B2
Synthesis of 4-(2-(4-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-phenoxy)ethyl)morpholine
To a stirring solution of 4-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-phenol (2.55 g, 11.58 mmol), 2-morpholin-4-ylethanol (1.60 mL, 1.73 g, 13.2 mmol) and triphenyl phosphine (3.64 g, 13.9 mmol) in methylene chloride (60 mL) at 0° C. was added dropwise DIAD (2.82 g, 13.9 mmol). The reaction was allowed to warm to room temperature and stir overnight. After 18 hours, additional portions of triphenyl phosphine (1.51 g, 5.8 mmol), 2-morpholin-4-ylethanol (0.70 mL, 5.8 mmol), and DIAD (1.17 g, 5.8 mmol) were added. After stirring an additional 2 hours at room temperature the reaction was concentrated and the residue purified by flash chromatography (5% to 25% EtOAc in CHCl3) to provide the product as a white solid (2.855 g, 74%).

reactant | 4-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-phenol | 11.58 mmol, 2.55 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)O)C | C12H17BO3
reactant | 2-morpholin-4-ylethanol | 13.2 mmol, 1.60 mL, 1.73 g | N1(CCOCC1)CCO | C6H13NO2
reactant | triphenyl phosphine | 13.9 mmol, 3.64 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 13.9 mmol, 2.82 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | triphenyl phosphine | 5.8 mmol, 1.51 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-morpholin-4-ylethanol | 5.8 mmol, 0.70 mL | N1(CCOCC1)CCO | C6H13NO2
reactant | DIAD | 5.8 mmol, 1.17 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-(4-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-phenoxy)ethyl)morpholine | 2.855 g, 74% | CC1(OB(OC1(C)C)C1=CC=C(OCCN2CCOCC2)C=C1)C | C18H28BNO4
